US04593102
3-[[4-(2-Methoxyethoxy)phenyl]sulfonyl]piperidine Hydrochloride
A mixture of 1.56 g (0.065 mole) of sodium hydride and 5.32 g (0.07 mole) of 2-methoxyethanol in 300 ml of dimethylsulfoxide was stirred at room temperature for 0.5 hr. A solution of 12.0 g (0.0463 mole) of 3-[(4-chlorophenyl)sulfonyl]piperidine (free base) in 100 ml of dimethyl sulfoxide was added and the mixture was stirred at 80°-100° C. for 1 hr. The solvent was removed in vacuo and the residue was partitioned between methylene chloride and water. The methylene chloride layer was dried over magnesium sulfate and the solvent was removed in vacuo to give an oil, the free base of the title compound. The free base was reacted with ethereal hydrogen chloride, crystallizing and recrystallizing using the solvent pair methanol-diethyl ether to give 10.12 g (65.2%) of the white crystalline hydrochloride salt, m.p. 206°-208° C.

reactant | sodium hydride | 0.065 mole, 1.56 g | [H-].[Na+]
reactant | 2-methoxyethanol | 0.07 mole, 5.32 g | COCCO | C3H8O2
reactant | 3-[(4-chlorophenyl)sulfonyl]piperidine | 0.0463 mole, 12.0 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CNCCC1 | C11H14ClNO2S
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 3-[[4-(2-Methoxyethoxy)phenyl]sulfonyl]piperidine Hydrochloride | Cl.COCCOC1=CC=C(C=C1)S(=O)(=O)C1CNCCC1 | InChI=1S/C14H21NO4S.ClH/c1-18-9-10-19-12-4-6-13(7-5-12)20(16,17)14-3-2-8-15-11-14;/h4-7,14-15H,2-3,8-11H2,1H3;1H
